US04203918
Preparation of 3'-chloro-3,3-dimethyl-spiro[cyclopropane-1,1'-indene]-2-carboxylic acid-, ethyl ester.
A solution of 2',3'-dichloro-3,3-dimethyl-spiro[cyclopropane-1,1'-indene]-2-carboxylic acid-, ethyl ester (19 g as is, containing iodobenzene) in t-butanol (50 ml) is added to a 0.1 M solution of potassium-t-butoxide in t-butanol (450 ml; 0.045 mole) and the mixture allowed to stir overnight at room temperature. The reaction mixture is then poured into water, extracted with ether, the ether extracts dried over magsium sulfate and evaporated to dryness to afford 11.1 g of a black oil. This oil is purified by chromatography (silica gel; eluent: 1:1 mixture of methylene chloride:hexane), to afford 2 g of title product, a yellow oil.

reactant | 2',3'-dichloro-3,3-dimethyl-spiro[cyclopropane-1,1'-indene]-2-carboxylic acid-, ethyl ester | 19 g | ClC=1C2(C3=CC=CC=C3C1Cl)C(C2(C)C)C(=O)OCC | C16H16Cl2O2
reactant | potassium-t-butoxide | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | t-butanol | 0.045 mole, 450 ml | C(C)(C)(C)O | C4H10O
product | 3'-chloro-3,3-dimethyl-spiro[cyclopropane-1,1'-indene]-2-carboxylic acid-, ethyl ester | 11.1 g | ClC1=CC2(C3=CC=CC=C13)C(C2(C)C)C(=O)OCC | C16H17ClO2
